US08022209B2
To a solution of 1-[4-(4-chloro-pyridin-2-yl)-thiophen-2-yl]-ethanol (100 mg, 0.42 mmol) in dichloromethane (3 mL) was added PCC (111 mg, 0.5 mmol). The resulting mixture was stirred for 3 hours and then passed through Celite®. The filtrated was washed with water and the organic layer was concentrated. The resulting residue was purified by silica gel column to yield 1-[4-(4-chloro-pyridin-2-yl)-thiophen-2-yl]-ethanone

reactant | 1-[4-(4-chloro-pyridin-2-yl)-thiophen-2-yl]-ethanol | 0.42 mmol, 100 mg | ClC1=CC(=NC=C1)C=1C=C(SC1)C(C)O | C11H10ClNOS
reactant | PCC | 0.5 mmol, 111 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-[4-(4-chloro-pyridin-2-yl)-thiophen-2-yl]-ethanone | ClC1=CC(=NC=C1)C=1C=C(SC1)C(C)=O | C11H8ClNOS
